US06329400B1
To a solution of (2R,3S)-2-(3-phenyl-1-propyl)-3-(2-tetrahydropyranyloxyamino)hexanoic acid (0.93 g, 2.66 mmol) in pyridine (2 mL) at 0° C. is added formic acetic anhydride (0.4 mL). The resulting solution is stirred at 0° C. for 1 h, concentrated in vacuo, and diluted with 11 mL of EtOAc. To the solution of crude acid is added pentafluorophenol (0.51 g, 2.79 mmol), NMM (0.28 g, 2.79 mmol) and dicyclohexylcarbodiimide (0.58 g, 2.79 mmol). The resulting solution is stirred at 23° C. for 20 h and is filtered. The filtrate is washed with 1 N hydrochloric acid, 1 M aqueous sodium carbonate solution, and saturated aqueous sodium chloride solution. The organic layer is dried over magnesium sulfate, concentrated, and purified by silica gel chromatography (elution with 9:1 hexanes-EtOAc) to provide pentafluorophenyl (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)hexanoate as an oil (0.84 g, 58% yield).

reactant | (2R,3S)-2-(3-phenyl-1-propyl)-3-(2-tetrahydropyranyloxyamino)hexanoic acid | 2.66 mmol, 0.93 g | C1(=CC=CC=C1)CCC[C@@H](C(=O)O)[C@H](CCC)NOC1OCCCC1 | C20H31NO4
reactant | formic acetic anhydride | 0.4 mL | C(C)(=O)OC=O | C3H4O3
reactant | pentafluorophenol | 2.79 mmol, 0.51 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | NMM | 2.79 mmol, 0.28 g | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 2.79 mmol, 0.58 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | pentafluorophenyl (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)hexanoate | 0.84 g, 58% yield | C1(=CC=CC=C1)CCC[C@@H](C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)[C@H](CCC)N(OC1OCCCC1)C=O | C27H30F5NO5
